US07572790B2
Methyl 4-bromo-3-hydroxybenzoate (143 mg) and 4-(2-iodoethyl)morpholine.HCI (189 mg) were combined in DMF (10 ml). Sodium hydride (55 mg, 60% dispersion in mineral oil) was added and the reaction heated at 80° C. under nitrogen for 5 hours. The reaction was quenched with water (10 ml) and the solvent evaporated under vacuum. Ethyl acetate/chloroform (1:1, 30 ml) and water (30 ml) were added to the residue resulting in precipitation of a solid, which was filtered off and washed with ether. The solid was partitioned between ethyl acetate/chloroform (1:1, 2×50 ml) and aqueous sodium hydrogen carbonate solution (1 M, 50 ml). The organic layers were combined, dried over a hydrophobic filter and evaporated to give methyl 4-bromo-3-{[2-(4-morpholinyl)ethyl]oxy}benzoate as a yellow gel (103 mg).

reactant | Methyl 4-bromo-3-hydroxybenzoate | 143 mg | BrC1=C(C=C(C(=O)OC)C=C1)O | C8H7BrO3
reactant | 4-(2-iodoethyl)morpholine | ICCN1CCOCC1 | C6H12INO
reactant | Sodium hydride | 55 mg | [H-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 4-bromo-3-{[2-(4-morpholinyl)ethyl]oxy}benzoate | 103 mg | BrC1=C(C=C(C(=O)OC)C=C1)OCCN1CCOCC1 | C14H18BrNO4
